US04384108
Preparation of Bisphenol-A Polycarbonate
A polymerization reactor was charged with 4.3 liters of water, 6.0 liters of methylene chloride, 2280 g. of bis(4-hydroxyphenol)propane-2,2 i.e., bisphenol-A also referred to herein as "BPA", 35 ml. of phenol also known as "hydroxy benzene", 10 g. of triethylamine, 3.4 g. of sodium gluconate, and 415 ml. of a 35% (w/w) of an aqueous sodium hydroxide solution. The admixture was equilibrated to form a substantially uniform agitated two-phase admixture by stirring for approximately 5 minutes while a pH of approximately 11.3 to 11.7 was attained. Phosgene was introduced from a calibrated flow meter at 63 g. per minute. By means of an automatic pH control a caustic 35% w/w aqueous sodium hydroxide solution was intermittently added to the reactor at a rate of 170 to 190 ml. per minute to maintain the reaction pH within the abovenoted pH range during the course of the reaction. After approximately 20-22 minutes phosgene flow was stopped, and the polymer reaction mixture was continuously agitated for an additional 2 minutes. The aqueous layer was sampled to determine residual "BPA" monomer which for control purposes was required to be less than 15 parts per million. The organic phase was separated and diluted with 4000 ml. of methylene chloride, washed twice with a dilute hydrochloric acid, (4000 ml. of a 2% w/v solution), and twice with 4000 ml. of deionized water. The resulting polymer solution was flash evaporated with steam and the resulting precipitate was collected and dried in nitrogen.

reactant | bisphenol-A | OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O | C15H16O2
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
reactant | hydroxy benzene | OC1=CC=CC=C1 | C6H6O
reactant | sodium gluconate | O=C([C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO)[O-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | Phosgene | C(=O)(Cl)Cl | CCl2O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 6.0 liters | C(Cl)Cl | CH2Cl2
solvent | water | 4.3 liters | O | H2O
product | Bisphenol-A Polycarbonate | CC(C)(C1=CC=C(C=C1)O)C2=CC=C(C=C2)O.C(=O)(O)O | InChI=1S/C15H16O2.CH2O3/c1-15(2,11-3-7-13(16)8-4-11)12-5-9-14(17)10-6-12;2-1(3)4/h3-10,16-17H,1-2H3;(H2,2,3,4)
